US07144914B2
(g) Benzyl tert-butyl tetrahydropyrrolo[3,4-c]pyrrole-2,5(1H,3H)-dicarboxylate
tert-Butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate hydrochloride (10 g, 0.04 mol; see Preparation A above) and triethylamine (14 mL, 0.1 mol) were mixed in CHCl3 (100 mL). N-benzyloxy-carbonyloxy succinimide (11 g, 0.044 mol), dissolved in CHCl3 (100 mL), was added at 0–5° C. The mixture was allowed to slowly reach room temperature and was stirred at rt for 5 h. The reaction mixture was washed with water, dried (Na2SO4) and evaporated, giving the sub-title compound in quantitative yield.

reactant | tert-Butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate hydrochloride | Cl.C1N(CC2C1CNC2)C(=O)OC(C)(C)C
reactant | triethylamine | 0.1 mol, 14 mL | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | Benzyl tert-butyl tetrahydropyrrolo[3,4-c]pyrrole-2,5(1H,3H)-dicarboxylate | quantitative yield | C1N(CC2C1CN(C2)C(=O)OC(C)(C)C)C(=O)OCC2=CC=CC=C2 | C19H26N2O4
